US05294612
A mixture of 3-tetrahydrofuranylhydrazine hydrochloride (6.2 g, 0.045 mol), sodium methoxide (2.4 g, 0.045 mol) and ethanol (70 ml) was refluxed under argon for 10 minutes. The reaction mixture was cooled to room temperature and 1-ethoxyethylidene malononitrile (6.1 g, 0.045 mol) was added. The reaction mixture was heated to reflux and stirred for 21 hours. The reaction was cooled and the solvent was removed in vacuo. The residue was recrystallized from water to afford 4.7 g (54%) of 1-(3-tetrahydrofuranyl)-3-methyl-5-amino-1H-pyrazole-4-carbonitrile as yellow crystals, m.p. 134°-135° C. when dried at 90° C. in high vacuum.

reactant | 3-tetrahydrofuranylhydrazine hydrochloride | 0.045 mol, 6.2 g | Cl.O1CC(CC1)NN
reactant | sodium methoxide | 0.045 mol, 2.4 g | C[O-].[Na+]
reactant | 1-ethoxyethylidene malononitrile | 0.045 mol, 6.1 g | C(C)OC(C)=C(C#N)C#N | C7H8N2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 1-(3-tetrahydrofuranyl)-3-methyl-5-amino-1H-pyrazole-4-carbonitrile | 4.7 g, 54% | O1CC(CC1)N1N=C(C(=C1N)C#N)C | C9H12N4O
